US08198307B2
Preparation of 2-[4-(3-acetylaminophenyl)piperidin-1-yl]ethanol (Formula (V-1); n=1, Y=Me)
2.0 g (7.8 mmol) of 4-(3-acetylaminophenyl)piperidine hydrochloride was dissolved in 20 ml of N,N-dimethylformamide, and then 1.3 g (10.2 mmol) of 2-bromoethanol and 3.2 g (23.4 mmol) of K2CO3 were added to the resulting solution, followed by treating the mixture at 60° C. for 5 hours. The reaction mixture was combined with 100 ml of water and extracted with ethylacetate (70 ml×5), and then the combined organic layer was dried over anhydrous sodium sulfate, and filtered. The solvent was removed from the filtrate under a reduced pressure, and the resulting residue was refined by silica gel column chromatography (10% methanol/CH2Cl2) to obtain 1.14 g (yield 56%) of the title compound.

reactant | 4-(3-acetylaminophenyl)piperidine hydrochloride | 7.8 mmol, 2.0 g | Cl.C(C)(=O)NC=1C=C(C=CC1)C1CCNCC1
reactant | 2-bromoethanol | 10.2 mmol, 1.3 g | BrCCO | C2H5BrO
reactant | K2CO3 | 23.4 mmol, 3.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-[4-(3-acetylaminophenyl)piperidin-1-yl]ethanol | 1.14 g, yield 56% | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCO | C15H22N2O2
